US06683096B2
0.36 g of 10% palladium on activated carbon were added to a solution of 1.2 g (4.3 mmol) of 4-benzyloxy-benzoic acid tert-butyl ester in 45 mL of ethanol and this mixture was hydrogenated at 20 psi for 3 hours. After filtering over celite and removing the solvent under reduced pressure 0.79 g (95% yield) of 4-hydroxy-benzoic acid tert-butyl ester were obtained.

reactant | 4-benzyloxy-benzoic acid tert-butyl ester | 4.3 mmol, 1.2 g | C(C)(C)(C)OC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C18H20O3
catalyst | palladium on activated carbon | 0.36 g | [Pd] | Pd
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 4-hydroxy-benzoic acid tert-butyl ester | 0.79 g, 95% yield | C(C)(C)(C)OC(C1=CC=C(C=C1)O)=O | C11H14O3
